US04424231
(a) 2,4-Dihydroxy-3-propylbenzaldehyde
Zinc cyanide (24 g) was added to a stirred suspension of 2-propylresorcinol (32.4 g) in dry ether (150 ml) and the resulting mixture saturated with hydrogen chloride. After being left to stand at room temperature for 30 minutes the ether was decanted and the remaining solid heated on the steam bath with water for 30 minutes.

reactant | 2-propylresorcinol | 32.4 g | C(CC)C1=C(O)C=CC=C1O | C9H12O2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | 150 ml | CCOCC | C4H10O
catalyst | Zinc cyanide | 24 g | [C-]#N.[Zn+2].[C-]#N
product | 2,4-Dihydroxy-3-propylbenzaldehyde | OC1=C(C=O)C=CC(=C1CCC)O | C10H12O3
